US05948785
Ethyl 2-thiophenecarboximidate hydrochloride was synthesized in the same manner as in Reference Example 2. That is, 2-thiophenecarbonitrile (25.2 g, 0.231 mol) was treated with hydrogen chloride in ethanol (250 mL) to give 16.3 g (37%) of the target compound as colorless crystals.

reactant | 2-thiophenecarbonitrile | 0.231 mol, 25.2 g | S1C(=CC=C1)C#N | C5H3NS
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | Ethyl 2-thiophenecarboximidate hydrochloride | Cl.S1C(=CC=C1)C(OCC)=N | InChI=1S/C7H9NOS.ClH/c1-2-9-7(8)6-4-3-5-10-6;/h3-5,8H,2H2,1H3;1H
